US05750520
N-[2-(2-Propyl)-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl]-3-cyano-(S)-phenylalanine
1M Aqueous sodium hydroxide solution (6.0 ml, 6 mmol) was added to a stirred solution of N-[2-(2-propyl)-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl]-3-cyano-(S)-phenylalanine ethyl ester (Preparation 25; 1.0 g, 2.19 mmol) in 1,4-dioxan (6.0 ml). After 2.5 hours at room temperature, the reaction mixture was neutralised using 1M hydrochloric acid (6.0 ml) and evaporated to dryness under reduced pressure. The residue was extracted successively with dichloromethane and a mixture of dichloromethane:2-propanol (9:1), then the combined extracts evaporated under reduced pressure to provide a material which, on trituration with ether, gave the title compound as a white powder (780 mg). Rf 0.06 (SS 3). m/e 428 (M+H)+.

reactant | sodium hydroxide | 6 mmol, 1M, 6.0 ml | [OH-].[Na+]
reactant | N-[2-(2-propyl)-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl]-3-cyano-(S)-phenylalanine ethyl ester | 2.19 mmol, 1.0 g | C(C)OC([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C)C)CC1=CC(=CC=C1)C#N)=O | C24H29N3O4S
reactant | hydrochloric acid | 1M, 6.0 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 1,4-dioxan | 6.0 ml | O1CCOCC1 | C4H8O2
product | N-[2-(2-Propyl)-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl]-3-cyano-(S)-phenylalanine | 780 mg | CC(C)N1CC2=CC(=CC=C2CC1)S(=O)(=O)N[C@@H](CC1=CC(=CC=C1)C#N)C(=O)O | C22H25N3O4S
